US04530714
A. N,N-Diisopropylthiophosphoramidic Dichloride
A solution of diisopropylamine (72 mL, 0.512 mole) in 75 mL of anhydrous ether was added dropwise to a cold (ice bath) solution of 106 mL (1.02 moles) of thiophosphoryl chloride in 300 mL of anhydrous ether under an argon atmosphere. The resultant slurry was allowed to slowly warm to room temperature. After filtering to remove isopropylamine hydrochloride, the filtrate was concentrated under vacuum to provide a red oil (45.2 g, 75.4%).

reactant | diisopropylamine | 0.512 mole, 72 mL | C(C)(C)NC(C)C | C6H15N
reactant | thiophosphoryl chloride | 1.02 moles, 106 mL | P(=S)(Cl)(Cl)Cl | Cl3PS
solvent | ether | 75 mL | CCOCC | C4H10O
solvent | ether | 300 mL | CCOCC | C4H10O
product | N,N-Diisopropylthiophosphoramidic Dichloride | 45.2 g, 75.4% | C(C)(C)N(P(=S)(Cl)Cl)C(C)C | C6H14Cl2NPS
